US05441949
To a solution of 6-carboxy-8-nitroquinoline (5.7 g; 26 mM) in THF (70 ml) was added triphenylphosphine (8.9 g; 33.8 mM), allyl alcohol (2.3 ml; 33.8 mM) and DEAD (5.35 ml; 33.8 mM). After stirring at ambient temperature for 30 minutes, the mixture was extracted with ethyl acetate and purified by subjecting to flash chromatography, eluting with ethyl acetate/petroleum ether (40/60) to give 6-allyloxycarbonyl 8-nitroquinoline (4 g; 67.7%).

reactant | 6-carboxy-8-nitroquinoline | 26 mM, 5.7 g | C(=O)(O)C=1C=C2C=CC=NC2=C(C1)[N+](=O)[O-] | C10H6N2O4
reactant | triphenylphosphine | 33.8 mM, 8.9 g | C1(=CC=CC=C1)P(C1=CC=CC=C1)C1=CC=CC=C1 | C18H15P
reactant | allyl alcohol | 33.8 mM, 2.3 ml | C(C=C)O | C3H6O
reactant | DEAD | 33.8 mM, 5.35 ml | CCOC(=O)/N=N/C(=O)OCC | C6H10N2O4
solvent | THF | 70 ml | C1CCOC1 | C4H8O
product | 6-allyloxycarbonyl 8-nitroquinoline | 4 g, 67.7% | C(C=C)OC(=O)C=1C=C2C=CC=NC2=C(C1)[N+](=O)[O-] | C13H10N2O4
